US06664271B1
(S)-ethyl 1-(2-thiopheneacetyl)-3-hydroxymethylpiperidine (180.4 ml; 0.75 mmol) was dissolved in dichloromethane (20 ml). Crushed molecular sieves (0.25 g), and commercially available pyridinium dichromate (331.2 mg; 0.88 mmol) were added and the mixture was allowed to stir at ambient temperature for 5 hours. The mixture was then filtered through celite, washed with decolorizing carbon, filtered again and then evaporated under reduced pressure at ambient temperature. Crude product was purified by distillation at approximately 250° C./0.1 torr, giving (S)-1-(2-thiopheneacetyl)-3-piperidinecarboxaldehyde (58 mg) as a thick colorless oil. MS m/z (positive ion) 317 (25), 238 (MH+; 100).

reactant | (S)-ethyl 1-(2-thiopheneacetyl)-3-hydroxymethylpiperidine | 0.75 mmol, 180.4 ml | C(C)[C@@H]1N(CCCC1CO)C(CC=1SC=CC1)=O | C14H21NO2S
reactant | pyridinium dichromate | 0.88 mmol, 331.2 mg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (S)-1-(2-thiopheneacetyl)-3-piperidinecarboxaldehyde | 58 mg | S1C(=CC=C1)CC(=O)N1C[C@H](CCC1)C=O | C12H15NO2S
